US07683185B2
7-(4-Chloro-phenylsulfanyl)-heptanoic acid ethyl ester (28c).
To a solution of 7-bromoheptanoic acid ethyl ester (2.5 mL, 12.8 mmol) and triethylamine (2 mL, 14.3 mmol) in dichloromethane (10 mL) was added 4-chlorothiophenol (1.86 g, 12.8 mmol) under an atmosphere of argon. The mixture was stirred at reflux for 2 hours after which it was concentrated under reduced pressure. The oil was dissolved in ethyl acetate (50 mL) and then washed successively with saturated aqueous sodium hydrogen carbonate (25 mL), distilled water (25 mL) and brine (25 mL). The organic layer was then dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give an yellow oil that was purified by flash chromatography (1:9 diethyl ether:40-60° C. petroleum ether). The title compound was obtained as a colourless oil (3.3 g, 87%).

reactant | 7-bromoheptanoic acid ethyl ester | 12.8 mmol, 2.5 mL | C(C)OC(CCCCCCBr)=O | C9H17BrO2
reactant | triethylamine | 14.3 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorothiophenol | 12.8 mmol, 1.86 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-(4-Chloro-phenylsulfanyl)-heptanoic acid ethyl ester | C(C)OC(CCCCCCSC1=CC=C(C=C1)Cl)=O | C15H21ClO2S
